US07906547B2
4-{4-[(1R,5S)-3-Azabicyclo[3.1.0]hex-3-yl]butoxy}-N,N-diethyl-benzamide
The experimental procedure is the same as Steps 1 and 2 of Example 3, but replacing the 4-hydroxybenzamide in Step 1 by 4-hydroxy-N,N-diethylbenzamide.

reactant | 4-hydroxybenzamide | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
reactant | 4-hydroxy-N,N-diethylbenzamide | OC1=CC=C(C(=O)N(CC)CC)C=C1 | C11H15NO2
product | 4-{4-[(1R,5S)-3-Azabicyclo[3.1.0]hex-3-yl]butoxy}-N,N-diethyl-benzamide | [C@@H]12CN(C[C@H]2C1)CCCCOC1=CC=C(C(=O)N(CC)CC)C=C1 | C20H30N2O2
